US07615651B2
Preparation of 3-Chloro-2-methyl-4′-[(3-methyl-butylamino)-methyl]-biphenyl-4-carboxylic acid amide hydrochloride salt (E3-01)
(4′-Carbamoyl-3-chloro-2′-methyl-biphenyl-4-ylmethyl)-(3-methyl-butyl)-carbamic acid tert-butyl ester (I-3e: 12.6 g, 28.3 mmol) was dissolved in ethyl acetate and treated with 30 ml of 4.0M hydrogen chloride in dioxane. After stirring for 24 hours at room temperature, the volatiles were removed under reduced pressure and the product was isolated by dissolving the crude material in methanol and slowly adding ethyl acetate to precipitate the product, which was isolated via filtration. The solid was crystallized by dissolving in 10 parts of hot ethanol before cooling to room temperature. After stirring for 48 hours, the resulting slurry was collected via filtration, rinsing with chilled ethanol, to provide the title compound (E3-01) as a colorless solid.

reactant | (4′-Carbamoyl-3-chloro-2′-methyl-biphenyl-4-ylmethyl)-(3-methyl-butyl)-carbamic acid tert-butyl ester | 28.3 mmol, 12.6 g | C(C)(C)(C)OC(N(CCC(C)C)CC1=C(C=C(C=C1)C1=C(C=C(C=C1)C(N)=O)C)Cl)=O | C25H33ClN2O3
reactant | hydrogen chloride | 4.0M, 30 ml | Cl | ClH
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dioxane | O1CCOCC1 | C4H8O2
solvent | methanol | CO | CH4O
product | 3-Chloro-2-methyl-4′-[(3-methyl-butylamino)-methyl]-biphenyl-4-carboxylic acid amide hydrochloride salt | Cl.ClC=1C(=C(C=CC1C(=O)N)C1=CC=C(C=C1)CNCCC(C)C)C | InChI=1S/C20H25ClN2O.ClH/c1-13(2)10-11-23-12-15-4-6-16(7-5-15)17-8-9-18(20(22)24)19(21)14(17)3;/h4-9,13,23H,10-12H2,1-3H3,(H2,22,24);1H
